US07750150B2
After dissolving of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide (1.00 g, 1.65 mmol) in ethanol (20 mL), pyridine hydrochloride (380 mg, 3.29 mmol) was added. The reaction mixture was concentrated, and to the residue, ethanol (0.5 mL) and water (5 mL) were added. A precipitate was collected by filtration to obtain 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide monohydrochloride (786 mg, 74%) as a colorless crystalline powder. The monohydrochloride (300 mg) was suspended in water (1.5 mL), followed by heating to 80° C. to dissolve the same. After allowing the reaction mixture to cool down to room temperature, crystals were collected by filtration, washed with water (0.5 mL×2), and heated and dried at 50° C. for 7 hours under reduced pressure to obtain the title compound (84 mg, 28%) as a colorless crystalline powder.

reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide | 1.65 mmol, 1.00 g | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F | C25H27F6N5O4S
reactant | pyridine hydrochloride | 3.29 mmol, 380 mg | Cl.N1=CC=CC=C1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide monohydrochloride | 786 mg, 74% | Cl.O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F | InChI=1S/C25H27F6N5O4S.ClH/c1-16-12-19(38-14-24(26,27)28)21(22(32-16)39-15-25(29,30)31)34-20(37)13-36-8-6-35(7-9-36)10-11-41-23-33-17-4-2-3-5-18(17)40-23;/h2-5,12H,6-11,13-15H2,1H3,(H,34,37);1H
